US05663440
In a 5-liter four-necked flask equipped with a stirring device, a thermometer, a condenser and a nitrogen substituting device, 54.4 g of lithium aluminum hydride and 382.6 g of aluminum chloride were introduced slowly in 2.0 liters of tetrahydrofuran to make a mixed solution, to which 150 g of 1,1-bis(4-benzoylphenyl)methane was added at room temperature and then heated for 1 hour at 60° C. and then stirred for 4 hours with maintaining the temperature. After the end of the reaction was confirmed by a liquid chromatography, the reaction solution was cooled to room temperature and 600 milliliters of ethyl acetate was added dropwise for 30 minutes with stirring, then 500 milliliters of water was added dropwise for 30 minutes with stirring. Thereafter, the reaction solution was washed with a 6N-HCl aqueous solution, an aqueous solution of sodium hydrogencarbonate, brine and water, removed off chloroform and nitrobenzene by a rotary evaporator, and then subjected to a column purification with a mixed solvent of 2:1 toluene and heptane, removed off the solvent and then recrystallized from ethyl acetate, to obtain 115 g of 1,1-bis(4-(1-phenylmethyl)phenyl)methane as crystals.

reactant | lithium aluminum hydride | 54.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | 382.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,1-bis(4-benzoylphenyl)methane | 150 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)CC1=CC=C(C=C1)C(C1=CC=CC=C1)=O | C27H20O2
reactant | ethyl acetate | 600 milliliters | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2.0 liters | O1CCCC1 | C4H8O
solvent | water | 500 milliliters | O | H2O
product | 1,1-bis(4-(1-phenylmethyl)phenyl)methane | 115 g | C1(=CC=CC=C1)CC1=CC=C(C=C1)CC1=CC=C(C=C1)CC1=CC=CC=C1 | C27H24
